US08013156B2
To a round-bottom flask purged with N2 was charged with Potassium t-butoxide (7.6 g, 68.4 mmol) and t-butanol (140 mL). The mixture was flushed with N2 for approximately 5 min., while stirring. To this mixture was added pyridylcarbinol (7.4 g, 68.4 mmol), followed by [1-(3-chloro-pyrazin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (6.8 g, 22.8 mmol). The mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo, and then diluted with water and extracted with EtOAc three times. The organic layer was washed with water and brine, dried over sodium sulfate, and then concentrated in vacuo. Purification of the crude by column chromatography afforded {1-[3-(pyridin-4-ylmethoxy)-pyrazin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (1 g, 12% yield).

reactant | Potassium t-butoxide | 68.4 mmol, 7.6 g | CC(C)([O-])C.[K+]
reactant | pyridylcarbinol | 68.4 mmol, 7.4 g | C1=CC(=CN=C1)CO | C6H7NO
reactant | [1-(3-chloro-pyrazin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 22.8 mmol, 6.8 g | C(C)(C)(C)OC(NC1CN(CC1)C1=NC=CN=C1Cl)=O | C13H19ClN4O2
solvent | t-butanol | 140 mL | C(C)(C)(C)O | C4H10O
product | {1-[3-(pyridin-4-ylmethoxy)-pyrazin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 1 g, 12% yield | C(C)(C)(C)OC(NC1CN(CC1)C1=NC=CN=C1OCC1=CC=NC=C1)=O | C19H25N5O3
